US08026261B2
B. Preparation of 5-Benzyloxy-1-methyl-2-(2,2,2-trifluoro-1-hydroxy-ethyl)-1H-pyridin-4-one
In each of four parallel synthesis tubes equipped with a magnetic stir bar was placed 5-benzyloxy-2-(2,2,2-trifluoro-1-hydroxy-ethyl)-pyran-4-one (0.90 g, 3.0 mmol), and a 2M methylamine solution in MeOH (5.5 mL, 11 mmol). The resulting solution was heated to reflux. The reaction was completed in 60 min. The solutions from the four reaction tubes were combined, and evaporated to dryness to give a semi solid mixture. The mixture was taken up in dichloromethane (15 mL) to give a thick solution. On standing, a solid product precipitated out to give the first crop of the title compound (2.90 g, 77% yield, HPLC Method 1 (Example 24); RT=13.0 min, HPLC purity (peak percent area): 99.5% at x=280 nm). 1H NMR (DMSO-d6+D2O) δ ppm: 7.64 (s, 1H), 7.37 (m, 5H), 6.49 (s, 1H), 5.38 (q, J=6.5 Hz, 1H), 4.97 (s, 2H), 3.69 (s, 3H).

reactant | 5-benzyloxy-2-(2,2,2-trifluoro-1-hydroxy-ethyl)-pyran-4-one | 3.0 mmol, 0.90 g | C(C1=CC=CC=C1)OC=1C(C=C(OC1)C(C(F)(F)F)O)=O | C14H11F3O4
reactant | methylamine | 2M | CN | CH5N
reactant | MeOH | 11 mmol, 5.5 mL | CO | CH4O
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | 5-Benzyloxy-1-methyl-2-(2,2,2-trifluoro-1-hydroxy-ethyl)-1H-pyridin-4-one | 2.90 g, 77% yield | C(C1=CC=CC=C1)OC=1C(C=C(N(C1)C)C(C(F)(F)F)O)=O | C15H14F3NO3
